US09079861B2
(S)-4-allyl-1-((S)-1-(4′-fluorobiphenyl-4-yl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one was prepared following a procedure analogous to that described in Example 4 using 4-fluorophenylboronic acid and (S)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one.

reactant | 4-fluorophenylboronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (S)-4-allyl-1-((S)-1-(4-bromophenyl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | C(C=C)[C@@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)Br)=O)C1=CC=C(C=C1)F | C21H22BrFN2O
product | (S)-4-allyl-1-((S)-1-(4′-fluorobiphenyl-4-yl)ethyl)-4-(4-fluorophenyl)tetrahydropyrimidin-2(1H)-one | C(C=C)[C@@]1(NC(N(CC1)[C@@H](C)C1=CC=C(C=C1)C1=CC=C(C=C1)F)=O)C1=CC=C(C=C1)F | C27H26F2N2O
